US05208224
N-[[[2,6-Bis(1-methylethyl)phenyl]amino1carbonyl]phosphoramidic Acid, Diethyl Ester
To a suspension of potassium cyanate (0.82 g, 10.1 mmol) in acetone (10 mL) is added diethyl chlorophosphate (1.3 mL, 9.2 mmol). The mixture is heated at reflux for 90 minutes. After cooling to room temperature, 2,6-diisopropylaniline (1.7 mL, 9.2 mmol) is added. The mixture is stirred at room temperature for 2 hours, then heated at reflux for 2 hours. After cooling, the mixture is filtered. The filtrate is diluted with ethyl acetate, washed twice with brine, dried over magnesium sulfate, and concentrated. Flash chromatography (3:2 ethyl acetate/hexane) provides 1.3 g of the product as a white solid. Recrystallization from ethyl acetate/hexane provides an analytical sample; mp 157°-158° C.

reactant | potassium cyanate | 10.1 mmol, 0.82 g | [O-]C#N.[K+]
reactant | diethyl chlorophosphate | 9.2 mmol, 1.3 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | 2,6-diisopropylaniline | 9.2 mmol, 1.7 mL | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | N-[[[2,6-Bis(1-methylethyl)phenyl]amino1carbonyl]phosphoramidic Acid, Diethyl Ester | 1.3 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NP(OCC)(OCC)=O | C17H29N2O4P
